US04039316
48 g of powdered iron were added over 15 minutes at 20° C. to a mixture of 18.9 g of m-nitro-3-methoxy-crotonanilide, 64 ml of 95% ethanol, 16 ml of water and 0.8 ml of 22° Be hydrochloric acid and the mixture was stirred for 11/2 hours at 27° C. The interior temperature was raised to 60° C. and the temperature was slowly lowered to 25° C. The mixture was filtered and the filtrate was evaporated to dryness under reduced pressure to obtain 13.6 g of m-amino-3-methoxy-crotonanilide. The product melted at 132° C. and after crystallization from ethanol still melted at 132° C.

reactant | m-nitro-3-methoxy-crotonanilide | 18.9 g | [N+](=O)([O-])C=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C11H12N2O4
reactant | ethanol | 64 ml | C(C)O | C2H6O
catalyst | iron | 48 g | [Fe] | Fe
solvent | water | 16 ml | O | H2O
product | m-amino-3-methoxy-crotonanilide | 13.6 g | NC=1C=C(NC(\C=C(\C)/OC)=O)C=CC1 | C11H14N2O2
